US08080568B1
Preparation of N-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)-3-vinylaniline hydrochloride (Example 38)
A stirred suspension of N-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)-3-vinylaniline (1.00 g, 2.45 mmol) in anhydrous CHCl3 (12 mL) was heated at 50° C. to give a clear solution. The CHCl3 solution was cooled to 0° C. and, to it, was added 1.0 M HCl in Et2O (7.36 mL, 7.36 mmol). After 5 min, the precipitates were filtered under N2 and dried thoroughly over P2O5 in vacuo to give the titled compound (1.07 g, 98%) as a yellow powder. 1H NMR (400 MHz, DMSO-d6) δ 9.49 (dd, 1H, J=1.6, 0.8 Hz), 8.65 (s, 1H), 7.97 (dd, 1H, J=9.2, 0.8 Hz), 7.86 (dd, 1H, overlapped, J=9.2, 1.6 Hz), 7.85 (t, 1H, overlapped, J=7.8 Hz), 7.65 (d, 1H, J=8.0 Hz), 7.38 (d, 1H, J=7.6 Hz), 7.12 (t, 1H, J=7.8 Hz), 6.91 (t, 1H, J=1.6 Hz), 6.79 (d, 1H, J=7.6 Hz), 6.71 (dd, 1H, J=8.0, 1.6 Hz), 6.64 (dd, 1H, J=17.6, 11.2 Hz), 5.80 (dd, 1H, J=17.6, 0.8 Hz), 5.20 (dd, 1H, J=11.2, 0.8 Hz), 4.79 (s, 2H), 2.51 (s, 3H).

reactant | N-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)-3-vinylaniline | 2.45 mmol, 1.00 g | N=1C=NN2C1C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)CNC2=CC(=CC=C2)C=C | C24H21N7
reactant | HCl | 1.0 M | Cl | ClH
reactant | Et2O | 7.36 mmol, 7.36 mL | CCOCC | C4H10O
solvent | CHCl3 | 12 mL | C(Cl)(Cl)Cl | CHCl3
product | N-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)-3-vinylaniline hydrochloride | 1.07 g, 98% | Cl.N=1C=NN2C1C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)CNC2=CC(=CC=C2)C=C | InChI=1S/C24H21N7.ClH/c1-3-17-7-5-8-19(12-17)25-13-21-29-23(18-10-11-22-26-15-27-31(22)14-18)24(30-21)20-9-4-6-16(2)28-20;/h3-12,14-15,25H,1,13H2,2H3,(H,29,30);1H
